US06573263B2
Analogously to Example 40A, 440 mg (305 mmol) of oxalyl chloride, 550 mg (7.00 mmol) of dimethyl sulphoxide, 920 mg (1.82 mmol) of N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-2-(1-hydroxyethyl)-5-phenyl-pentanamide and 1.82 g (18 mmol) of triethylamine are reacted to give 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide.

reactant | oxalyl chloride | 305 mmol, 440 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 7.00 mmol, 550 mg | CS(=O)C | C2H6OS
reactant | N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-2-(1-hydroxyethyl)-5-phenyl-pentanamide | 1.82 mmol, 920 mg | COC=1C=C(CC2=NN=C(C(N2)=O)C(CC)NC(C(CCCC2=CC=CC=C2)C(C)O)=O)C=CC1OC | C28H36N4O5
reactant | triethylamine | 18 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
product | 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide | C(C)(=O)C(C(=O)NC(CC)C=1C(NC(=NN1)CC1=CC(=C(C=C1)OC)OC)=O)CCCC1=CC=CC=C1 | C28H34N4O5
